US07084170B2
5-Trifluoromethyl-thiophene-2-sulfonamide
To a solution of 3-[1-(4-sulfamoyl-phenyl)-1H-tetrazol-5-yloxy]-5-trifluoromethyl-thiophene-2-sulfonamide (210 mg, 0.47 mmol) in benzene (50 mL) is added H2O (2 mL), EtOH (3 mL), formic acid (2 mL) and 10% palladium on carbon (350 mg). The mixture is heated to 80° C. overnight. The reaction mixture is cooled to room temperature and diluted with benzene (50 mL). The reaction mixture is filtered. The benzene layer is dried (Na2SO4), filtered and concentrated. The crude product is chromatographed on silica gel, eluting with EtOAc:Hex (1:10) to afford the title compound (18 mg, 17%) as a white solid.

reactant | 3-[1-(4-sulfamoyl-phenyl)-1H-tetrazol-5-yloxy]-5-trifluoromethyl-thiophene-2-sulfonamide | 0.47 mmol, 210 mg | S(N)(=O)(=O)C1=CC=C(C=C1)N1N=NN=C1OC1=C(SC(=C1)C(F)(F)F)S(=O)(=O)N | C12H9F3N6O5S3
reactant | H2O | 2 mL | O | H2O
reactant | EtOH | 3 mL | CCO | C2H6O
reactant | formic acid | 2 mL | C(=O)O | CH2O2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5-Trifluoromethyl-thiophene-2-sulfonamide | 18 mg, 17% | FC(C1=CC=C(S1)S(=O)(=O)N)(F)F | C5H4F3NO2S2
